US07678929B2
2.8 g (9.58 mmol) of 4,5-difluoro-2-methyl-7-pentyl-7H-furo[3,2-f]chromene are hydrogenated for a few minutes in toluene using elemental hydrogen in the presence of Pd/C (5% Pd). The reaction soln. is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:1-chlorobutane=2:1). The further purification is carried out by recrystallisation from ethanol, giving 4,5-difluoro-2-methyl-7-pentyl-8,9-dihydro-7H-furo[3,2-f]chromene as a colourless solid having an m.p. of 61° C. (Δ∈=−6.7).

reactant | 4,5-difluoro-2-methyl-7-pentyl-7H-furo[3,2-f]chromene | 9.58 mmol, 2.8 g | FC1=C2C(=C3C=CC(OC3=C1F)CCCCC)C=C(O2)C | C17H18F2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | [Pd] | Pd
product | 4,5-difluoro-2-methyl-7-pentyl-8,9-dihydro-7H-furo[3,2-f]chromene | FC1=C2C(=C3CCC(OC3=C1F)CCCCC)C=C(O2)C | C17H20F2O2
